US04661505
Methyl 6-(4-acetyl-3-hydroxyphenoxy)-2,2-dimethylhexanoate
Following the procedure of Example 44, 2.5 g. of methyl 6-bromo-2,2-dimethylhexanoate, 1.46 g. of potassium carbonate, a catalytic amount of potassium iodide, and 1.67 g. of 2,4-dihydroxyacetophenone were reacted in 125 ml. of acetone giving 2.3 g. of the title product as an oil. M+ =308; NMR.

reactant | methyl 6-bromo-2,2-dimethylhexanoate | BrCCCCC(C(=O)OC)(C)C | C9H17BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | 2,4-dihydroxyacetophenone | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
solvent | acetone | 2.3 g | CC(=O)C | C3H6O
product | Methyl 6-(4-acetyl-3-hydroxyphenoxy)-2,2-dimethylhexanoate | C(C)(=O)C1=C(C=C(OCCCCC(C(=O)OC)(C)C)C=C1)O | C17H24O5
